US07691867B2
A mixture of 4-chloro-6-methoxyquinazolin-7-ol (5.0 g, 24 mmol), potassium carbonate (9.94 g, 72 mmol) and 1-bromo-2-chloroethane (7.98 ml, 96 mmol) in dimethyl acetamide (50 ml) was heated at 90° C. for 3 hours. The reaction mixture was allowed to cool to room temperature and then filtered. The filtrate was purified directly by silica gel chromatography eluting with a 20 to 80% mixture of ethyl acetate in iso-hexane. The obtained product was triturated with diethyl ether to give a 3:1 mixture of 4-chloro-7-(2-chloroethoxy)-6-methoxyquinazoline: 4-chloro-7-(2-bromoethoxy)-6-methoxyquinazoline (4.77 g, 73% yield) as a white solid:

reactant | 4-chloro-6-methoxyquinazolin-7-ol | 24 mmol, 5.0 g | ClC1=NC=NC2=CC(=C(C=C12)OC)O | C9H7ClN2O2
reactant | potassium carbonate | 72 mmol, 9.94 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-chloroethane | 96 mmol, 7.98 ml | BrCCCl | C2H4BrCl
reactant | 4-chloro-7-(2-chloroethoxy)-6-methoxyquinazoline | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCl | C11H10Cl2N2O2
solvent | dimethyl acetamide | 50 ml | CC(=O)N(C)C | C4H9NO
product | 4-chloro-7-(2-bromoethoxy)-6-methoxyquinazoline | 4.77 g, 73% yield | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCBr | C11H10BrClN2O2
